US04760163
using ethyl 2-chloro-5-{1,2,5,7-tetrahydro-2,4-dioxo-thieno[3,4-d]pyrimidin-3(4H)-yl}-benzoate in dimethylformamide there is obtained ethyl 2-chloro-5-{1,2,5,7-tetrahydro-1-methyl-2,4-dioxo-thieno[3,4-d]pyrimidin-3(4H)-yl}-benzoate, m.p. 203°-206° C.,

reactant | ethyl 2-chloro-5-{1,2,5,7-tetrahydro-2,4-dioxo-thieno[3,4-d]pyrimidin-3(4H)-yl}-benzoate | ClC1=C(C(=O)OCC)C=C(C=C1)N1C(NC2=C(C1=O)CSC2)=O | C15H13ClN2O4S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 2-chloro-5-{1,2,5,7-tetrahydro-1-methyl-2,4-dioxo-thieno[3,4-d]pyrimidin-3(4H)-yl}-benzoate | ClC1=C(C(=O)OCC)C=C(C=C1)N1C(N(C2=C(C1=O)CSC2)C)=O | C16H15ClN2O4S
